US06906063B2
To a solution of methyl 2-isocyanatobenzoate (0.266 g, 1.5 mmol) and 2-bromo-4-nitroaniline (0.325 g, 1.5 mmol) in DMF (2 mL) was added DIEA (0.79 mL). The reaction mixture was stirred at room temp for 24 hr, with addition of DBU (0.22 mL) at 17 hr. The reaction mixture was extracted with EtOAc, washed with 1 N HCl and brine, dried and concentrated to give crude product, which was chromatographed on silica gel with 10% EtOAc/CH2Cl2 to give 3-(2-bromo-4-nitrophenyl)-1,3-dihydroquinazoline-2,4-dione (0.24 g, 44%). ES-MS (M+H)+=362, 364 (Br).

reactant | methyl 2-isocyanatobenzoate | 1.5 mmol, 0.266 g | N(=C=O)C1=C(C(=O)OC)C=CC=C1 | C9H7NO3
reactant | 2-bromo-4-nitroaniline | 1.5 mmol, 0.325 g | BrC1=C(N)C=CC(=C1)[N+](=O)[O-] | C6H5BrN2O2
reactant | DIEA | 0.79 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | DBU | 0.22 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 3-(2-bromo-4-nitrophenyl)-1,3-dihydroquinazoline-2,4-dione | 0.24 g, 44% | BrC1=C(C=CC(=C1)[N+](=O)[O-])N1C(NC2=CC=CC=C2C1=O)=O | C14H8BrN3O4
